US08293903B2
A −40° C. solution of 2M (in Ethylbenzene/THF/Heptane) LDA (36 ml, 72 mmol) in THF (80 ml) was placed in flask with THF (80 ml) was treated with a solution of methyl (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate (7.9 g, 36.3 mmol) in THF (17 ml) while keeping the temperature less than −32° C. The reaction was stirred for 30 min and then 2,2-difluoroethyl trifluoromethanesulfonate was added slowly, keeping the temperature <−28° C. The reaction was stirred with cold bath in place and allow to slowly warm. After 4 hours the reaction was poured into NH4Cl solution and extracted twice with ethyl acetate. The combined organics were washed with brine, dried over MgSO4 and concentrated to give a brown oil. The oil was passed through a column of silica gel with 10% ethyl acetate/hexanes to give methyl (1S,4S)-1-(2,2-difluoroethyl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate as a brown oil. (7.5 g, 73%). 1H NMR (400 MHz, CDCl3) δ ppm 6.07-6.04 (1H), 6.02-6.00 (0.25H) 5.98-5.96 (1H), 5.88-5.86 (0.5H), 5.75-5.72 (2.25H), 5.36-5.30 (1H), 3.74 (3H), 2.53-2.41 (2H), 2.39-2.22 (2H), 2.19 (6H)

reactant | LDA | 72 mmol, 2M, 36 ml | [Li+].CC(C)[N-]C(C)C
reactant | methyl (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate | 36.3 mmol, 7.9 g | CC=1N(C(=CC1)C)[C@@H]1C=C[C@@H](C1)C(=O)OC | C13H17NO2
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | methyl (1S,4S)-1-(2,2-difluoroethyl)-4-(2,5-dimethyl-1H-pyrrol-1-yl)cyclopent-2-ene-1-carboxylate | FC(C[C@@]1(C=C[C@H](C1)N1C(=CC=C1C)C)C(=O)OC)F | C15H19F2NO2
